US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-pyridylmethyloxy)benzoyl]morpholine
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridylmethyloxy)benzoyl]morpholine (0.460 g, 0.885 mmol) was dissolved in a mixed solution of acetonitrile (15 ml) and water (5 ml) and after adding thereto CAN (1.21 g, 2.21 mmol) at room temperature, the solution was stirred at room temperature for 1 hour. The reaction solution was diluted with water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The residue was purified by silica gel column chromatography (chloroform:methanol=9:1) to obtain the titled compound (0.270 g, 0.548 mmol, 62%).

reactant | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridylmethyloxy)benzoyl]morpholine | 0.885 mmol, 0.460 g | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCOCC3)C2)OCC2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C29H34N2O7
reactant | CAN | 2.21 mmol, 1.21 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | 5 ml | O | H2O
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-pyridylmethyloxy)benzoyl]morpholine | 0.548 mmol, 0.270 g, 62% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCOCC2)C1)OCC1=CC=NC=C1)C)=O | C27H28N2O7
